R1 (net147 net158) R=6.2E1
C2 (net4 net67) C=0.4E-7
T3 (net7 net81 net81 0) pfet L=8.18E-6 W=5.40E-6
R4 (net194 net201) R=3.4E4
R5 ( 0 net61)  R=6.9E5
T6 ( net61 net61 net29 0)  nfet  L=2.45E-6 W=8.04E-6
T7 ( net29 net139 0 0)  nfet  L=2.45E-6 W=8.04E-6
T8 ( net139 net139 0 0)  nfet  L=2.45E-6 W=8.04E-6
T9 ( net186 net61 net139 0)  nfet  L=2.45E-6 W=8.04E-6
T10 (net70 net202 net202 0) nfet L=2.14E-6 W=3.83E-6
R11 ( net180 net102)  R=4.1E4
T12 ( net102 net164 0 0)  nfet  L=7.68E-6 W=0.91E-6
T13 ( net23 net164 0 0)  nfet  L=7.68E-6 W=0.91E-6
T14 ( net35 net102 net23 0)  nfet  L=7.68E-6 W=0.91E-6
R15 (net191 net18) R=1.5E6
R16 (net118 net136) R=9.5E0
T17 (net98 net105 net105 0) pfet L=9.23E-6 W=2.74E-6
C18 (net200 0) C=9.4E-13
C19 (net196 vdd!) C=8.0E-9
T20 (0 net121 net121 0) nfet L=2.13E-6 W=0.63E-6
C21 (net50 net94) C=7.9E-8
R22 (net6 net105) R=2.7E0
T23 (net133 net157 net157 0) nfet L=5.47E-6 W=7.44E-6
T24 (net211 net101 net101 0) nfet L=1.90E-6 W=3.40E-6
R25 (net75 net42) R=5.8E3
T26 (net37 net49 net49 0) nfet L=8.34E-6 W=3.36E-6
C27 (net135 0) C=8.4E-14
T28 (net205 net17 net17 0) nfet L=6.26E-6 W=4.07E-6
R29 (net17 net19) R=8.8E5
R30 (net206 net140) R=4.2E3
T31 (net132 vdd! vdd! 0) nfet L=7.58E-6 W=6.69E-6
R32 (net85 net141) R=0.5E5
C33 (net136 net94) C=9.0E-11
T34 (net138 net207 net207 0) nfet L=2.53E-6 W=0.88E-6
R35 (net106 net53) R=4.0E5
T36 (net185 net129 net129 0) pfet L=9.77E-6 W=7.85E-6
C37 (net35 vdd!) C=0.8E-11
T38 (net135 net128 net128 0) nfet L=2.03E-6 W=7.74E-6
T39 (net15 net156 net156 0) nfet L=2.05E-6 W=5.48E-6
C40 (net137 net214) C=5.3E-6
C41 (net128 net215) C=0.4E-13
T42 (net34 net35 net35 0) nfet L=5.41E-6 W=8.97E-6
R43 (net128 net66) R=10.0E4
C44 (net183 net47) C=5.2E-14
T45 (net66 vdd! vdd! 0) pfet L=6.04E-6 W=6.85E-6
C46 (net167 net27) C=2.6E-10
T47 (net1 net109 net109 0) nfet L=2.49E-6 W=2.75E-6
T48 (net217 net51 net51 0) nfet L=8.03E-6 W=9.08E-6
T49 (net112 net136 net136 0) pfet L=2.64E-6 W=2.18E-6
T50 (net93 vdd! vdd! 0) pfet L=9.92E-6 W=2.14E-6
R51 (net107 net183) R=9.6E6
T52 (net149 net170 net170 0) nfet L=5.63E-6 W=1.79E-6
T53 (net193 net157 net157 0) pfet L=7.58E-6 W=4.07E-6
T54 (vdd! net46 net46 0) nfet L=1.57E-6 W=9.28E-6
T55 (net112 net93 net93 0) pfet L=5.33E-6 W=5.20E-6
T56 (net2 net122 net122 0) pfet L=1.20E-6 W=9.89E-6
R57 (net208 net74) R=3.8E4
C58 (net67 net199) C=0.1E-10
C59 (net46 net127) C=8.2E-14
T60 (net151 net17 net17 0) nfet L=4.24E-6 W=2.99E-6
T61 (net83 net38 net38 0) nfet L=6.50E-6 W=9.87E-6
T62 (net128 net79 net79 0) nfet L=5.09E-6 W=7.16E-6
T63 (net85 net189 net189 0) nfet L=3.34E-6 W=1.10E-6
T64 (0 vdd! vdd! 0) nfet L=5.66E-6 W=7.09E-6
R65 (net161 net53) R=9.1E6
C66 (net197 net153) C=0.5E-5
C67 (net211 net184) C=1.6E-9
R68 (net134 net140) R=5.3E5
T69 (net198 net174 net174 0) nfet L=6.29E-6 W=9.92E-6
T70 (net206 net20 net20 0) nfet L=9.33E-6 W=2.30E-6
T71 (net148 net56 net56 0) pfet L=8.63E-6 W=0.78E-6
R72 (net20 net67) R=7.2E2
R73 (net101 net91) R=9.9E1
C74 (net141 net112) C=3.7E-10
T75 (net212 0 0 0) pfet L=3.27E-6 W=9.86E-6
T76 (net98 net57 net57 0) pfet L=1.09E-6 W=1.16E-6
T77 (vdd! net42 net42 0) pfet L=4.79E-6 W=2.60E-6
R78 (net30 net189) R=3.8E0
T79 (net135 net105 net105 0) nfet L=1.90E-6 W=2.91E-6
T80 (net119 net127 net127 0) nfet L=6.19E-6 W=9.97E-6
C81 (net87 net73) C=8.4E-11
C82 (net11 net99) C=4.1E-14
R83 (net44 net178) R=5.7E6
T84 (net71 net19 net19 0) pfet L=3.58E-6 W=4.36E-6
T85 (net171 net30 net30 0) nfet L=6.16E-6 W=3.42E-6
R86 (net101 net53) R=4.5E3
R87 (net132 0) R=5.8E6
C88 (net75 net25) C=4.3E-11
T89 (net98 net194 net194 0) nfet L=5.48E-6 W=2.04E-6
T90 (net169 net20 net20 0) pfet L=1.44E-6 W=8.98E-6
C91 (net154 net66) C=8.2E-12
R92 (net65 net119) R=2.1E6
T93 (net136 0 0 0) nfet L=4.67E-6 W=2.27E-6
C94 (net13 0) C=6.1E-9
T95 (0 net20 net20 0) nfet L=5.47E-6 W=9.03E-6
R96 (0 net32) R=2.2E4
C97 (net173 net37) C=3.2E-8
T98 (net194 net119 net119 0) pfet L=4.14E-6 W=8.54E-6
C99 (net26 net72) C=8.3E-14
T100 (net11 net108 net108 0) pfet L=1.16E-6 W=6.39E-6
T101 (net57 net105 net105 0) pfet L=9.54E-6 W=2.00E-6
R102 (net207 net127) R=8.2E3
C103 (net93 net191) C=2.2E-5
T104 (net50 net202 net202 0) pfet L=3.01E-6 W=3.93E-6
T105 (net169 net28 net28 0) pfet L=0.69E-6 W=7.39E-6
R106 (net66 net179) R=8.2E6
T107 (net190 net176 net176 0) nfet L=3.94E-6 W=4.30E-6
C108 (net78 net203) C=2.9E-5
C109 (net60 net209) C=3.5E-14
T110 (net170 net73 net73 0) nfet L=9.16E-6 W=9.79E-6
T111 (net30 net67 net67 0) nfet L=8.86E-6 W=4.77E-6
T112 (net182 0 0 0) nfet L=8.78E-6 W=2.55E-6
R113 (net34 net184) R=10.0E4
T114 (net193 net28 net28 0) nfet L=1.54E-6 W=5.87E-6
T115 (net66 net40 net40 0) nfet L=6.30E-6 W=5.77E-6
R116 (net146 net113) R=4.7E0
R117 (net94 net46) R=1.8E0
C118 (net198 net214) C=0.5E-14
R119 (net116 net205) R=5.2E1
C120 (0 net49) C=3.8E-13
T121 (net215 net11 net11 0) nfet L=2.27E-6 W=1.83E-6
T122 (0 net125 net125 0) pfet L=5.64E-6 W=8.92E-6
T123 (0 vdd! vdd! 0) nfet L=6.45E-6 W=4.92E-6
C124 (0 net152) C=8.7E-13
T125 (net213 net143 net143 0) pfet L=7.57E-6 W=5.88E-6
T126 (net1 net2 net2 0) pfet L=9.96E-6 W=7.31E-6
C127 (net106 net44) C=1.0E-9
C128 (net51 net47) C=2.2E-8
T129 (net25 net114 net114 0) nfet L=8.15E-6 W=7.28E-6
T130 (net203 net122 net122 0) nfet L=0.47E-6 W=2.08E-6
T131 (net58 vdd! vdd! 0) pfet L=4.20E-6 W=2.13E-6
T132 (net130 net145 net145 0) nfet L=8.40E-6 W=7.78E-6
T133 (net173 net91 net91 0) pfet L=2.11E-6 W=2.72E-6
R134 (net179 net7) R=7.9E0
T135 (net217 0 0 0) nfet L=6.83E-6 W=2.17E-6
T136 (net52 0 0 0) nfet L=4.39E-6 W=1.69E-6
R137 (net191 net173) R=1.3E5
T138 (net142 net16 net16 0) nfet L=4.83E-6 W=4.79E-6
R139 (net65 net85) R=9.3E4
T140 (net147 net125 net125 0) nfet L=1.40E-6 W=1.66E-6
T141 (net20 net85 net85 0) nfet L=3.20E-6 W=3.19E-6
T142 (net157 net199 net199 0) pfet L=2.75E-6 W=3.03E-6
T143 (net109 net48 net48 0) pfet L=1.21E-6 W=9.70E-6
T144 (net154 net155 net155 0) pfet L=9.49E-6 W=0.15E-6
T145 (net45 net27 net27 0) pfet L=7.98E-6 W=3.25E-6
T146 (net190 net26 net26 0) pfet L=9.26E-6 W=9.23E-6
T147 (net115 net14 net14 0) pfet L=6.22E-6 W=5.03E-6
C148 (vdd! net70) C=0.3E-13
R149 (net33 net111) R=5.0E0
R150 (net20 net177) R=6.7E5
R151 (net179 net16) R=0.4E4
T152 (net32 net90 net90 0) nfet L=7.51E-6 W=1.97E-6
C153 (net185 net21) C=3.2E-5
T154 (net39 net81 net81 0) nfet L=4.19E-6 W=1.08E-6
T155 (net181 net193 net193 0) nfet L=7.57E-6 W=4.35E-6
T156 (net178 net34 net34 0) pfet L=7.65E-6 W=8.37E-6
T157 (net5 net27 net27 0) pfet L=3.07E-6 W=9.89E-6
T158 (net16 net216 net216 0) nfet L=6.66E-6 W=1.16E-6
R159 (vdd! net52) R=1.6E5
C160 (net146 net18) C=1.3E-8
R161 (net99 net38) R=9.8E1
C162 (net27 net45) C=6.3E-6
R163 (net178 net214) R=0.6E3
C164 (net213 net30) C=5.8E-14
T165 (net203 net53 net53 0) nfet L=5.32E-6 W=2.98E-6
R166 (net11 net137) R=6.9E5
T167 (net49 net124 net124 0) nfet L=4.53E-6 W=7.77E-6
T168 (net77 net101 net101 0) pfet L=2.12E-6 W=3.07E-6
R169 (net157 net85) R=3.4E4
R170 (net212 net108) R=2.6E0
C171 (net28 net185) C=6.9E-6
T172 (net183 net83 net83 0) nfet L=4.70E-6 W=2.53E-6
T173 (net2 net88 net88 0) pfet L=8.39E-6 W=6.08E-6
C174 (net117 net74) C=3.7E-13
C175 (net8 net83) C=6.4E-5
T176 (net116 net121 net121 0) nfet L=3.43E-6 W=2.98E-6
T177 (net166 net212 net212 0) pfet L=9.73E-6 W=7.08E-6
T178 (net115 net1 net1 0) nfet L=4.46E-6 W=5.16E-6
T179 (net174 net58 net58 0) pfet L=6.76E-6 W=5.41E-6
T180 (0 net59 net59 0) pfet L=0.57E-6 W=5.80E-6
C181 (net11 net78) C=3.1E-10
C182 (net175 net187) C=1.1E-14
C183 (net56 net162) C=2.1E-6
C184 (net105 net60) C=6.1E-9
C185 (net41 net18) C=0.9E-13
C186 (net1 0) C=7.4E-13
T187 (net65 net44 net44 0) nfet L=6.42E-6 W=0.61E-6
T188 (net69 net140 net140 0) nfet L=1.13E-6 W=4.41E-6
R189 (net3 0) R=3.9E3
R190 (net163 vdd!) R=0.4E6
C191 (0 net184) C=5.1E-12
T192 (net8 net96 net96 0) pfet L=4.25E-6 W=9.22E-6
C193 (net182 net32) C=5.0E-13
R194 (net130 vdd!) R=7.6E5
T195 (net195 net113 net113 0) pfet L=9.53E-6 W=4.35E-6
C196 (vdd! net188) C=9.2E-6
T197 (0 net55 net55 0) pfet L=1.25E-6 W=7.29E-6
T198 (net89 net159 net159 0) pfet L=6.48E-6 W=8.46E-6
T199 (0 net104 net104 0) nfet L=3.34E-6 W=0.28E-6
T200 (net155 net106 net106 0) nfet L=0.81E-6 W=0.71E-6
R201 (net39 net201) R=1.6E0
T202 (net186 vdd! vdd! 0) nfet L=2.64E-6 W=6.40E-6
T203 (net140 net173 net173 0) nfet L=1.58E-6 W=7.02E-6
T204 (net189 net103 net103 0) nfet L=1.45E-6 W=6.00E-6
C205 (net152 net125) C=3.8E-10
C206 (net100 net204) C=1.2E-11
T207 (net52 net3 net3 0) nfet L=3.47E-6 W=4.33E-6
T208 (net123 0 0 0) pfet L=2.06E-6 W=5.41E-6
R209 (net13 net116) R=2.3E1
C210 (vdd! net78) C=2.7E-11
R211 (net66 net103) R=4.2E6
R212 (net3 net91) R=5.9E1
T213 (net86 net165 net165 0) nfet L=7.57E-6 W=5.42E-6
R214 (net30 net39) R=5.3E5
R215 (vdd! net202) R=9.7E0
R216 (net141 vdd!) R=2.8E2
R217 (net200 net12) R=9.2E2
C218 (net7 net31) C=4.1E-12
R219 (net76 net175) R=1.6E3
T220 (net59 net62 net62 0) nfet L=2.15E-6 W=5.24E-6
C221 (net97 vdd!) C=6.9E-13
T222 (vdd! net88 net88 0) pfet L=8.20E-6 W=3.80E-6
C223 (net15 net128) C=6.1E-6
T224 (vdd! net18 net18 0) nfet L=0.37E-6 W=3.20E-6
T225 (net56 net3 net3 0) pfet L=0.57E-6 W=1.61E-6
T226 (net66 net154 net154 0) pfet L=0.76E-6 W=4.68E-6
R227 (net110 net20) R=6.0E2
T228 (net118 net81 net81 0) pfet L=3.00E-6 W=9.19E-6
T229 (net25 net161 net161 0) pfet L=7.36E-6 W=7.39E-6
T230 (net62 net174 net174 0) pfet L=2.52E-6 W=6.52E-6
R231 (net72 net52) R=3.2E6
C232 (net68 net152) C=4.9E-8
T233 (net7 net120 net120 0) nfet L=4.81E-6 W=8.93E-6
T234 (net76 net39 net39 0) pfet L=6.79E-6 W=2.20E-6
R235 (net37 net210) R=9.1E1
T236 (net98 net165 net165 0) pfet L=5.07E-6 W=2.34E-6
T237 (net64 net188 net188 0) nfet L=2.01E-6 W=9.72E-6
T238 (net70 net199 net199 0) pfet L=9.95E-6 W=8.04E-6
T239 (net90 net77 net77 0) nfet L=8.26E-6 W=0.51E-6
R240 (net124 net17) R=3.6E1
R241 (net166 net194) R=0.2E4
T242 (net197 net90 net90 0) pfet L=0.44E-6 W=7.82E-6
R243 (net168 net190) R=6.5E6
R244 (net110 net49) R=9.8E2
C245 (vdd! net186) C=8.2E-10
C246 (net76 net216) C=8.8E-11
T247 (net158 net90 net90 0) nfet L=6.35E-6 W=5.68E-6
C248 (net54 net118) C=7.8E-8
T249 (net19 net100 net100 0) nfet L=3.03E-6 W=8.24E-6
T250 (net191 net19 net19 0) nfet L=3.59E-6 W=7.24E-6
T251 (net1 net59 net59 0) nfet L=5.90E-6 W=1.27E-6
R252 (net72 net161) R=3.1E2
T253 (net99 net147 net147 0) pfet L=9.24E-6 W=3.09E-6
T254 (net85 0 0 0) pfet L=6.83E-6 W=5.27E-6
R255 (net124 net88) R=3.8E3
T256 (net124 net54 net54 0) nfet L=3.07E-6 W=4.33E-6
T257 (net145 net208 net208 0) nfet L=7.75E-6 W=3.74E-6
C258 (net13 net197) C=5.9E-9
T259 (net59 net4 net4 0) pfet L=9.18E-6 W=1.20E-6
T260 (net83 net18 net18 0) pfet L=3.52E-6 W=2.29E-6
T261 (net126 net27 net27 0) nfet L=8.58E-6 W=6.08E-6
R262 (net122 net45) R=2.4E5
T263 (net204 net145 net145 0) nfet L=0.68E-6 W=5.94E-6
C264 (net6 0) C=2.6E-13
T265 (0 net206 net206 0) nfet L=1.81E-6 W=1.53E-6
T266 (net56 net5 net5 0) pfet L=2.02E-6 W=9.54E-6
R267 (net205 net70) R=3.0E1
T268 (net70 net82 net82 0) pfet L=5.21E-6 W=8.53E-6
C269 (net27 vdd!) C=5.7E-5
R270 (net6 net129) R=5.9E0
T271 (net180 net49 net49 0) nfet L=6.28E-6 W=7.53E-6
T272 (net215 net201 net201 0) pfet L=7.74E-6 W=1.64E-6
R273 (net44 net145) R=4.2E5
C274 (net154 net24) C=4.2E-13
R275 (net42 vdd!) R=3.9E1
R276 (net87 net145) R=5.4E6
C277 (net153 0) C=1.2E-10
T278 (0 net163 net163 0) nfet L=9.08E-6 W=9.58E-6
R279 (0 net18) R=7.4E6
T280 (net46 vdd! vdd! 0) pfet L=6.10E-6 W=6.49E-6
C281 (0 net44) C=7.5E-10
T282 (net137 net151 net151 0) pfet L=4.59E-6 W=9.38E-6
T283 (net129 net159 net159 0) nfet L=4.85E-6 W=5.07E-6
R284 (net110 net123) R=8.9E6
T285 (vdd! 0 0 0) pfet L=3.18E-6 W=2.67E-6
T286 (net14 net48 net48 0) nfet L=3.34E-6 W=2.06E-6
C287 (net159 net57) C=7.3E-7
C288 (net12 net176) C=0.2E-9
C289 (net189 net41) C=0.8E-8
R290 (net161 net204) R=9.6E5
C291 (net18 net56) C=5.0E-13
T292 (net25 net112 net112 0) pfet L=9.76E-6 W=8.57E-6
R293 (net157 net24) R=7.6E5
T294 (net104 net115 net115 0) pfet L=8.15E-6 W=9.47E-6
T295 (net137 vdd! vdd! 0) pfet L=4.54E-6 W=1.12E-6
T296 (net208 net41 net41 0) pfet L=7.25E-6 W=7.92E-6
R297 (net48 net115) R=0.7E0
T298 (net178 net77 net77 0) pfet L=5.75E-6 W=6.77E-6
C299 (net79 vdd!) C=2.1E-5
T300 (net125 net156 net156 0) pfet L=8.66E-6 W=1.02E-6
C301 (net53 net208) C=4.1E-14
T302 (net89 net89 net89 0) pfet L=4.37E-6 W=6.73E-6
T303 (0 net215 net215 0) pfet L=2.86E-6 W=2.60E-6
T304 (net110 net26 net26 0) nfet L=5.47E-6 W=5.69E-6
T305 (net210 net16 net16 0) pfet L=6.73E-6 W=2.06E-6
C306 (net213 net67) C=4.1E-8
T307 (0 vdd! vdd! 0) nfet L=3.31E-6 W=2.89E-6
R308 (net81 net30) R=7.2E5
T309 (net65 net27 net27 0) pfet L=2.62E-6 W=4.19E-6
T310 (net145 net78 net78 0) nfet L=3.28E-6 W=0.55E-6
T311 (vdd! net173 net173 0) pfet L=3.42E-6 W=4.27E-6
T312 (net28 net17 net17 0) nfet L=2.02E-6 W=3.56E-6
T313 (net169 net99 net99 0) pfet L=2.18E-6 W=7.57E-6
R314 (net103 vdd!) R=2.0E4
T315 (net137 net104 net104 0) nfet L=2.17E-6 W=0.57E-6
T316 (net88 0 0 0) nfet L=6.05E-6 W=5.76E-6
C317 (net78 net74) C=6.0E-8
C318 (net149 net49) C=3.1E-13
T319 (net183 net76 net76 0) nfet L=4.30E-6 W=4.19E-6
T320 (net130 vdd! vdd! 0) pfet L=8.25E-6 W=8.07E-6
T321 (net189 net123 net123 0) nfet L=1.12E-6 W=4.45E-6
T322 (net193 net195 net195 0) pfet L=1.21E-6 W=2.10E-6
T323 (net20 net188 net188 0) nfet L=8.28E-6 W=8.43E-6
T324 (net2 net47 net47 0) pfet L=7.73E-6 W=9.17E-6
C325 (vdd! 0) C=0.3E-8
R326 (net28 net136) R=5.8E3
R327 (net93 net14) R=3.3E3
T328 (net89 net152 net152 0) pfet L=7.05E-6 W=7.78E-6
T329 (0 net170 net170 0) nfet L=6.30E-6 W=9.57E-6
R330 (net123 net101) R=9.8E5
C331 (net19 0) C=2.3E-7
C332 (vdd! net204) C=7.2E-13
T333 (net151 net66 net66 0) nfet L=8.87E-6 W=1.96E-6
R334 (net64 net117) R=7.9E4
T335 (vdd! net130 net130 0) pfet L=5.14E-6 W=4.84E-6
C336 (net22 net106) C=4.2E-11
R337 (net63 vdd!) R=4.2E6
T338 (net83 net129 net129 0) pfet L=0.42E-6 W=8.71E-6
R339 (net108 net196) R=6.6E3
R340 (net65 net208) R=6.3E3
T341 (net134 net201 net201 0) nfet L=6.88E-6 W=2.90E-6
C342 (net104 vdd!) C=2.2E-6
R343 (net70 net34) R=4.1E6
C344 (net53 net108) C=0.7E-5
T345 (net74 net131 net131 0) pfet L=3.99E-6 W=5.89E-6
T346 (net66 net36 net36 0) pfet L=0.56E-6 W=6.31E-6
T347 (net107 net200 net200 0) pfet L=5.43E-6 W=5.84E-6
R348 (net49 net48) R=4.7E6
R349 (net16 net98) R=1.4E0
R350 (net136 net125) R=1.4E6
T351 (net200 0 0 0) nfet L=0.65E-6 W=3.84E-6
C352 (net172 net42) C=0.5E-13
T353 (0 net5 net5 0) nfet L=4.14E-6 W=4.50E-6
T354 (net207 vdd! vdd! 0) nfet L=4.30E-6 W=1.19E-6
T355 (net50 net123 net123 0) pfet L=7.59E-6 W=9.01E-6
T356 (net37 net189 net189 0) pfet L=1.16E-6 W=3.30E-6
R357 (net25 net211) R=4.0E5
T358 (net115 net198 net198 0) nfet L=9.62E-6 W=9.94E-6
T359 (net153 net35 net35 0) pfet L=9.54E-6 W=1.62E-6
R360 (net64 net137) R=9.8E4
T361 (net46 net213 net213 0) nfet L=5.25E-6 W=4.54E-6
C362 (net85 net212) C=8.5E-7
C363 (net91 net111) C=1.4E-10
T364 (net129 net70 net70 0) nfet L=8.73E-6 W=4.21E-6
T365 (net213 net120 net120 0) pfet L=3.85E-6 W=1.07E-6
R366 (net22 vdd!) R=8.1E6
R367 (net187 net75) R=9.5E4
T368 (net191 net90 net90 0) nfet L=0.21E-6 W=9.87E-6
C369 (net98 net170) C=2.4E-7
T370 (net45 net188 net188 0) nfet L=2.27E-6 W=0.11E-6
T371 (net12 net167 net167 0) pfet L=0.96E-6 W=0.90E-6
T372 (net114 net115 net115 0) pfet L=1.85E-6 W=9.25E-6
C373 (net30 net86) C=8.0E-10
T374 (net91 vdd! vdd! 0) pfet L=5.36E-6 W=5.53E-6
T375 (net78 net157 net157 0) nfet L=8.64E-6 W=1.26E-6
R376 (net6 net28) R=4.4E6
R377 (net170 net8) R=7.0E3
T378 (net75 net80 net80 0) nfet L=6.16E-6 W=5.29E-6
T379 (net131 net178 net178 0) pfet L=5.35E-6 W=8.76E-6
C380 (net130 net27) C=4.7E-13
T381 (net129 net104 net104 0) pfet L=1.81E-6 W=8.09E-6
R382 (net143 net51) R=8.0E4
C383 (net34 net190) C=7.4E-7
T384 (net6 net187 net187 0) pfet L=3.50E-6 W=9.13E-6
T385 (net147 net12 net12 0) nfet L=8.69E-6 W=3.78E-6
T386 (net55 net27 net27 0) nfet L=5.87E-6 W=0.55E-6
C387 (net42 net117) C=1.1E-10
C388 (net6 net137) C=4.8E-13
T389 (net108 net95 net95 0) nfet L=6.38E-6 W=0.48E-6
R390 (net82 0) R=4.5E3
R391 (net178 net151) R=4.6E5
T392 (net64 net65 net65 0) nfet L=4.38E-6 W=8.91E-6
C393 (net19 net68) C=8.5E-6
T394 (net151 net117 net117 0) pfet L=6.85E-6 W=4.65E-6
R395 (net25 net118) R=5.2E2
R396 (net35 net48) R=7.6E1
T397 (net185 net5 net5 0) pfet L=0.29E-6 W=2.63E-6
C398 (net137 net131) C=5.7E-13
C399 (net77 net38) C=9.5E-6
R400 (net144 net99) R=1.7E2
R401 (net138 net6) R=3.5E3
T402 (net57 net67 net67 0) pfet L=3.67E-6 W=2.76E-6
T403 (net91 net96 net96 0) pfet L=2.95E-6 W=9.24E-6
C404 (net149 net183) C=9.6E-14
C405 (net91 net27) C=2.8E-9
T406 (net156 net178 net178 0) pfet L=4.74E-6 W=9.54E-6
T407 (net43 net67 net67 0) nfet L=4.13E-6 W=1.18E-6
T408 (net117 net134 net134 0) nfet L=6.55E-6 W=6.49E-6
C409 (net65 net216) C=8.3E-10
T410 (net124 net145 net145 0) nfet L=3.69E-6 W=2.75E-6
C411 (net41 net217) C=9.1E-10
T412 (net112 net116 net116 0) pfet L=8.28E-6 W=0.38E-6
R413 (net86 net6) R=4.1E5
T414 (net183 net68 net68 0) nfet L=1.16E-6 W=4.14E-6
T415 (vdd! net124 net124 0) pfet L=0.80E-6 W=2.12E-6
R416 (net199 net63) R=7.3E4
C417 (net144 net57) C=4.0E-12
T418 (net71 net184 net184 0) nfet L=9.46E-6 W=1.02E-6
R419 (net194 vdd!) R=6.0E4
R420 (net7 net146) R=0.2E4
T421 (net118 net62 net62 0) pfet L=1.50E-6 W=1.87E-6
C422 (vdd! net180) C=1.7E-7
T423 (net80 net123 net123 0) pfet L=3.69E-6 W=7.03E-6
T424 (net79 net74 net74 0) pfet L=2.11E-6 W=0.35E-6
R425 (net211 net56) R=2.5E4
T426 (net186 net76 net76 0) nfet L=7.71E-6 W=8.58E-6
T427 (net79 net207 net207 0) pfet L=1.34E-6 W=2.78E-6
C428 (net204 net5) C=2.1E-8
T429 (net81 net58 net58 0) pfet L=8.40E-6 W=2.92E-6
T430 (net130 net89 net89 0) nfet L=2.10E-6 W=6.59E-6
T431 (net26 net206 net206 0) pfet L=3.44E-6 W=4.68E-6
C432 (net73 net18) C=9.2E-14
R433 (net10 net71) R=7.2E0
T434 (net129 net5 net5 0) pfet L=3.47E-6 W=6.06E-6
C435 (net134 net131) C=0.9E-10
T436 (net117 vdd! vdd! 0) nfet L=9.40E-6 W=2.87E-6
C437 (net38 net206) C=1.5E-13
T438 (net202 net18 net18 0) nfet L=2.57E-6 W=4.73E-6
T439 (net131 net75 net75 0) nfet L=2.32E-6 W=9.42E-6
T440 (net209 net137 net137 0) nfet L=6.59E-6 W=4.85E-6
C441 (net1 net167) C=6.2E-7
R442 (vdd! net22) R=8.5E0
T443 (0 net66 net66 0) pfet L=6.29E-6 W=7.42E-6
C444 (net151 net160) C=3.2E-9
T445 (net148 net131 net131 0) nfet L=1.32E-6 W=2.87E-6
T446 (net2 net169 net169 0) pfet L=6.62E-6 W=4.66E-6
R447 (net7 net25) R=7.5E1
T448 (net187 vdd! vdd! 0) pfet L=0.87E-6 W=9.57E-6
T449 (net64 net62 net62 0) nfet L=9.94E-6 W=2.63E-6
T450 (net177 net217 net217 0) pfet L=2.86E-6 W=1.07E-6
T451 (net156 net125 net125 0) nfet L=9.63E-6 W=8.28E-6
T452 (net1 0 0 0) pfet L=2.83E-6 W=7.27E-6
R453 (net161 net142) R=3.2E4
T454 (net43 net143 net143 0) nfet L=1.84E-6 W=4.62E-6
C455 (net193 net65) C=2.1E-6

