T1 (net11 net8 net8 0) nfet L=8.34E-6 W=3.93E-6
T2 (net11 net19 net19 0) nfet L=5.58E-6 W=8.48E-6
R3 (net16 net15) R=7.8E3
R4 ( net18 net3)  R=4.9E3
T5 ( net3 net3 net12 0)  nfet  L=1.31E-6 W=2.24E-6
T6 ( net12 net9 0 0)  nfet  L=1.31E-6 W=2.24E-6
T7 ( net9 net9 0 0)  nfet  L=1.31E-6 W=2.24E-6
T8 ( 0 net3 net9 0)  nfet  L=1.31E-6 W=2.24E-6
C9 (net20 net11) C=7.6E-8
C10 (net13 net18) C=5.6E-5
R11 ( net21 net4)  R=6.2E6
T12 ( net4 net2 0 0)  nfet  L=8.47E-6 W=3.04E-6
T13 ( net1 net2 0 0)  nfet  L=8.47E-6 W=3.04E-6
T14 ( net4 net4 net1 0)  nfet  L=8.47E-6 W=3.04E-6
R15 (net14 net21) R=0.6E0
C16 (net20 net8) C=7.8E-14
C17 (net14 net11) C=7.3E-13
T18 (net20 net17 net17 0) pfet L=9.86E-6 W=2.14E-6
R19 (net5 net11) R=0.3E2
R20 (net5 0) R=5.4E1
C21 (net7 net16) C=8.3E-8
C22 (net8 net20) C=2.8E-14
T23 (net7 net21 net21 0) nfet L=1.58E-6 W=1.64E-6
T24 (net21 net6 net6 0) nfet L=2.46E-6 W=7.74E-6
C25 (net11 net8) C=5.5E-5
T26 (net19 net11 net11 0) nfet L=7.42E-6 W=5.70E-6
R27 (net19 0) R=5.2E6
T28 (net20 net16 net16 0) pfet L=1.26E-6 W=7.65E-6
C29 (net17 net11) C=5.1E-9
T30 (net11 vdd! vdd! 0) pfet L=4.26E-6 W=9.38E-6
T31 (net18 net15 net15 0) pfet L=0.91E-6 W=6.99E-6
R32 (net18 net8) R=1.9E5
R33 (net15 net5) R=5.7E3
T34 (net5 net20 net20 0) pfet L=4.05E-6 W=5.86E-6
T35 (net21 net20 net20 0) pfet L=6.02E-6 W=8.10E-6
C36 (net18 net15) C=3.4E-13
C37 (net10 net5) C=1.6E-5
T38 (net6 net16 net16 0) pfet L=0.44E-6 W=2.11E-6
T39 (vdd! net19 net19 0) pfet L=7.10E-6 W=5.54E-6
C40 (net18 vdd!) C=9.6E-12
T41 (0 net16 net16 0) nfet L=8.92E-6 W=0.12E-6
C42 (net13 net17) C=0.9E-12
T43 (net5 net18 net18 0) pfet L=8.30E-6 W=6.16E-6
T44 (net10 net5 net5 0) nfet L=6.21E-6 W=4.59E-6
T45 (net19 net17 net17 0) nfet L=5.97E-6 W=4.32E-6
T46 (net21 net6 net6 0) nfet L=0.24E-6 W=0.36E-6
R47 (net15 net16) R=7.6E1
C48 (net8 net6) C=5.0E-6
T49 (net19 0 0 0) pfet L=8.01E-6 W=4.07E-6
T50 (net11 vdd! vdd! 0) pfet L=8.36E-6 W=3.76E-6
T51 (net11 net14 net14 0) pfet L=8.00E-6 W=1.71E-6
T52 (net10 vdd! vdd! 0) nfet L=1.30E-6 W=6.46E-6
T53 (net15 net17 net17 0) pfet L=4.28E-6 W=6.35E-6
C54 (net18 net17) C=0.7E-9
T55 (vdd! net14 net14 0) pfet L=1.00E-6 W=1.87E-6
T56 (net6 net17 net17 0) pfet L=4.97E-6 W=8.46E-6
R57 (net5 net20) R=5.7E0
C58 (net5 net14) C=7.6E-6
T59 (net6 net13 net13 0) nfet L=8.41E-6 W=1.19E-6
T60 (net20 net10 net10 0) nfet L=6.18E-6 W=5.73E-6

