R1 ( net6 net13)  R=9.6E1
T2 ( net13 net10 0 0)  nfet  L=4.12E-6 W=1.79E-6
T3 ( net9 net10 0 0)  nfet  L=4.12E-6 W=1.79E-6
T4 ( net3 net13 net9 0)  nfet  L=4.12E-6 W=1.79E-6
R5 (net19 0) R=3.1E1
R6 ( net17 net4)  R=2.6E3
T7 ( net4 net19 0 0)  nfet  L=7.95E-6 W=2.01E-6
T8 ( net18 net19 0 0)  nfet  L=7.95E-6 W=2.01E-6
T9 ( net4 net4 net18 0)  nfet  L=7.95E-6 W=2.01E-6
T10 (net7 net3 net3 0) nfet L=1.80E-6 W=6.57E-6
T11 (net5 net6 net6 0) pfet L=5.31E-6 W=3.50E-6
R12 (net8 net11) R=7.2E1
R13 (net7 net5) R=9.7E4
T14 (net17 net17 net17 0) pfet L=1.34E-6 W=6.53E-6
T15 (0 net1 net1 0) nfet L=1.72E-6 W=9.73E-6
C16 (net5 net2) C=1.7E-9
R17 (net3 net2) R=9.9E4
T18 (vdd! net5 net5 0) pfet L=1.30E-6 W=8.35E-6
C19 (net16 net1) C=9.2E-12
T20 (net14 net6 net6 0) pfet L=7.62E-6 W=3.09E-6
T21 (vdd! net15 net15 0) nfet L=3.02E-6 W=7.69E-6
T22 (net3 net5 net5 0) nfet L=6.67E-6 W=6.44E-6
C23 (net14 net1) C=1.9E-9
C24 (net12 net5) C=0.5E-9
C25 (net12 net11) C=4.1E-12
C26 (net8 net17) C=6.6E-5
R27 (net6 vdd!) R=3.9E1
C28 (net5 net11) C=5.3E-8
T29 (net6 net7 net7 0) nfet L=6.79E-6 W=9.47E-6
T30 (net3 net12 net12 0) pfet L=7.18E-6 W=4.86E-6
T31 (net1 net16 net16 0) pfet L=6.48E-6 W=9.51E-6
T32 (net16 net6 net6 0) nfet L=0.37E-6 W=9.81E-6
T33 (net8 net12 net12 0) nfet L=2.45E-6 W=6.96E-6
T34 (net1 net11 net11 0) pfet L=3.37E-6 W=2.01E-6
C35 (net7 net14) C=9.8E-8
T36 (net14 net1 net1 0) nfet L=3.59E-6 W=2.70E-6
T37 (net5 net11 net11 0) pfet L=1.01E-6 W=9.07E-6
R38 (net15 net8) R=8.8E2
R39 (net14 net16) R=3.6E6
T40 (net2 net8 net8 0) nfet L=4.64E-6 W=2.04E-6
R41 (vdd! net14) R=5.0E2
C42 (net6 net7) C=4.1E-14
T43 (net3 vdd! vdd! 0) nfet L=5.68E-6 W=1.27E-6
R44 (net5 net11) R=8.2E0
T45 (net7 net5 net5 0) nfet L=9.82E-6 W=3.30E-6
C46 (net14 net16) C=3.9E-9

